US08314242B2
2 g (0.18 mol) of 4-(methylamino)furan-2(5H)-one are introduced in 20 ml of 1,2-dimethoxyethane, and 0.72 g of sodium hydroxide is added. 2.2 g of dimethyl sulphate in 5 ml of 1,2-dimethoxyethane are metered into the suspension and stirred at 40° C. for 5 h. The solvent is removed in vacuo and 50 ml of water are added to the residue. This mixture is then extracted with 50 ml of dichloromethane. The organic phase is dried over sodium sulphate and then evaporated down in vacuo. 1.2 g of 4-(dimethylamino)furan-2(5H)-one are obtained as a solid with a purity of 96% (yield 51%).

reactant | 4-(methylamino)furan-2(5H)-one | 0.18 mol, 2 g | CNC1=CC(OC1)=O | C5H7NO2
reactant | sodium hydroxide | 0.72 g | [OH-].[Na+]
reactant | dimethyl sulphate | 2.2 g | S(=O)(=O)(OC)OC | C2H6O4S
solvent | 1,2-dimethoxyethane | 20 ml | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 5 ml | COCCOC | C4H10O2
product | 4-(dimethylamino)furan-2(5H)-one | 1.2 g, yield 51% | CN(C1=CC(OC1)=O)C | C6H9NO2
